US06982348B2
2) ethyl 3-[3-(benzyloxy)phenyl]-3-oxopropanoate
To a solution of 3-benzyloxyacetophenone (90 g, 400 mmol) in diethyl carbonate (500 ml) was added ethanol (1.5 ml) and sodium hydride (60% in oil, 31.8 g, 800 mmol) was added under ice-cooling. The mixture was stirred at room temperature for 4 hrs. To the reaction solution was added 6N hydrochloric acid to stop the reaction, and water (500 ml) was added. The mixture was extracted with ethyl acetate (500 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:1-10:1) to give the objective substance (107 g, 90%).

reactant | 3-benzyloxyacetophenone | 400 mmol, 90 g | CC(=O)C1=CC(=CC=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | ethanol | 1.5 ml | C(C)O | C2H6O
reactant | sodium hydride | 800 mmol, 31.8 g | [H-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | diethyl carbonate | 500 ml | C(OCC)(OCC)=O | C5H10O3
solvent | water | 500 ml | O | H2O
product | ethyl 3-[3-(benzyloxy)phenyl]-3-oxopropanoate | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CC(=O)OCC)=O | C18H18O4
